US09107916B2
A. 2-{5-[(4-chlorobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-chlorophenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.21 (2H, s), 6.72 (1H, d, J=2.0 Hz), 7.26 (1H, s), 7.37-7.47 (4H, m), 7.56 (1H, d, J=2.0 Hz), 8.03 (1H, s), 8.69 (1H, d, J=4.8 Hz) [M+H] Calc'd for C16H11ClN4O, 311. Found, 311.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-chlorophenyl)methanol | ClC1=CC=C(C=C1)CO | C7H7ClO
product | 2-{5-[(4-chlorobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | ClC1=CC=C(COC2=CC=NN2C2=NC=CC(=C2)C#N)C=C1 | C16H11ClN4O
